US06222076B1
Preparation of 2-(3-hydroxypropyl)cyclododecanone
From a double-walled vessel made of glass, whose temperature is thermostatically controlled at 100° C. and which is fitted with a magnetic stirrer and serves as the storage container for the cyclododecanone, 400 g/h are pumped to a mixing column which is kept at a temperature of 100° C. 21.4 g/h of a mixture of allyl alcohol (12.2 g/h) and di-tert-butyl peroxide (9.2 g/h) are continuously metered into the feedline of the mixing column.

reactant | cyclododecanone | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | allyl alcohol | C(C=C)O | C3H6O
reactant | di-tert-butyl peroxide | C(C)(C)(C)OOC(C)(C)C | C8H18O2
product | 2-(3-hydroxypropyl)cyclododecanone | OCCCC1C(CCCCCCCCCC1)=O | C15H28O2
